US09303000B2
Synthesis of 2-chloro-6-methoxyisonicotinonitrile
In a 25-mL, 3N round-bottomed flask equipped with thermometer pocket fitted with an nitrogen inlet and a rubber septum, NaH (0.112 g, 1.0 eq.), methanol (0.11 mL, 1.0 eq.), suspended in N-methylpyrrolidine (5 mL). The reaction mixture was stir at 25-30 C for 30 minutes. To this reaction mixture 2,6-dichloroisonicotinonitrile was added at 0-5 C. The progress of the reaction was followed by TLC analysis on silica gel with 10% EtOAc-hexane as mobile phase which shows that starting material was consumed after 2 hours staring at 0-5 C. Reaction was quenched by water, precipitate was observed that was filter by filter paper and wash with hexane to give required compound (0.51 g, crude). Reaction was stirred for 20 min with water solid was separated and compound was collected by filtration on a Buchner funnel and washed with of hexane (30 mL); Yield: 0.51 g crude 2-chloro-6-methoxyisonicotinonitrile.

reactant | NaH | 0.112 g, 1.0 eq. | [H-].[Na+]
reactant | methanol | 0.11 mL, 1.0 eq. | CO | CH4O
reactant | 2,6-dichloroisonicotinonitrile | ClC=1C=C(C#N)C=C(N1)Cl | C6H2Cl2N2
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | N-methylpyrrolidine | 5 mL | CN1CCCC1 | C5H11N
product | 2-chloro-6-methoxyisonicotinonitrile | 0.51 g | ClC=1C=C(C#N)C=C(N1)OC | C7H5ClN2O
